### PR TITLE
feat: add lemmas for List.isPrefixOf? and List.isSuffixOf?

### PR DESCRIPTION
**Pull request by fgdorais**

### CODE REVIEW

File: Batteries/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -633,6 +633,43 @@ theorem dropInfix?_eq_some_iff [BEq α] {l i p s : List α} :
...
+  | _::_, [] => rfl
+  | _::_, _::_ =>
+    simp only [List.isPrefixOf?, List.isPrefixOf]
+    split <;> simp [*, isSome_isPrefixOf?_eq_isPrefixOf]
+
+theorem append_eq_of_isPrefixOf?_eq_some [BEq α] [LawfulBEq α] {xs ys zs : List α}
+    (h : xs.isPrefixOf? ys = some zs) : xs ++ zs = ys := by
+  match xs, ys with
+  | [], _ =>
+    simp [List.isPrefixOf?] at h
```
Comment (kim-em) [inline Batteries/Data/List/Lemmas.lean:651]: I think this counts as a non-terminal simp, so should be squeezed. (Although personally I'd be happy to relax this rule a bit for `simp at`. Perhaps `simp_all` works here?

Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: Done.

File: Batteries/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -633,6 +633,42 @@ theorem dropInfix?_eq_some_iff [BEq α] {l i p s : List α} :
...
+    (xs.isPrefixOf? ys).isSome = xs.isPrefixOf ys := by
+  match xs, ys with
+  | [], _ => simp [List.isPrefixOf?]
+  | _::_, [] => rfl
+  | _::_, _::_ =>
+    simp only [List.isPrefixOf?, List.isPrefixOf]
+    split <;> simp [*, isSome_isPrefixOf?_eq_isPrefixOf]
+
+theorem append_eq_of_isPrefixOf?_eq_some [BEq α] [LawfulBEq α] {xs ys zs : List α}
+    (h : xs.isPrefixOf? ys = some zs) : xs ++ zs = ys := by
```
Comment (kim-em) [inline Batteries/Data/List/Lemmas.lean:648]: Can this be an iff simp lemma? (Preferring ++ of course.)

**Comment by kim-em** [comment]
Otherwise LGTM, please merge when ready.
